US05144042
Preparation of (3R)-4-Chloro-3-hydroxy-1-p-tolylsulfonyloxybutane (I)
A solution of 5 g (40 mmole) of (3R)-4-chloro-1,3-butanediol in 30 ml of methylene chloride, said (3R)-4-chloro-1,3-butanediol being obtainable in a similar manner as in Example 1 starting from methyl (3R)-4-chloro-3-hydroxybutyrate, was cooled to -20° C. on a dry ice-acetone bath, and 8.13 g (80 mmole) of triethylamine was added dropwise thereto over 30 minutes. A solution of 7.66 g (40.2 mmole) of p-toluenesulfonyl chloride in 100 ml of methylene chloride was added dropwise thereto over 50 minutes. After returning to room temperature, the mixture was stirred for 20 hours. The reaction mixture was poured into 200 ml of ice-water for liquid separation. The organic layer was washed successively with 100 ml of 1N hydrochloric acid, 100 ml ×2 of a saturated sodium hydrogencarbonate aqueous solution and 100 ml of a saturated sodium chloride aqueous solution and then freed of the solvent by distillation to obtain 7.8 g of a concentrate. The concentrate was purified by silica gel column chromatography (hexane/ethyl acetate=2:1 by volume) to obtain 6.1 g (yield: 54%) of the titled compound. 1H-NMR (CDCl3) δ ppm: 1.78-2.00 (m, 2H), 2.46 (s, 3H), 3.45-3.65 (dd, 2H), 3.95 (m, 1H), 4.20 (m, 2H), 7.40 (d, 2H), 7.80 (d, 2H)

reactant | (3R)-4-chloro-1,3-butanediol | 40 mmole, 5 g | ClC[C@@H](CCO)O | C4H9ClO2
reactant | methyl (3R)-4-chloro-3-hydroxybutyrate | ClC[C@@H](CC(=O)OC)O | C5H9ClO3
reactant | triethylamine | 80 mmole, 8.13 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 40.2 mmole, 7.66 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (3R)-4-Chloro-3-hydroxy-1-p-tolylsulfonyloxybutane | 6.1 g, yield: 54% | ClC[C@@H](CCOS(=O)(=O)C1=CC=C(C=C1)C)O | C11H15ClO4S
